US07544699B2
2-Amino-4-methoxy aniline (5.0 g, 36.2 mmol) was dissolved in 50 mL of ethanol and triethylamine (5.08 mL, 69.1 mmol) added. The mixture was cooled to 0° C. and diethylbromomalonate (8.02 mL, 47.0 mmol) in 8 mL of ethanol was added dropwise over 30 minutes. Mixture is stirred at 0° C. for 30 minutes and 16 h at room temperature. The resulting solid was isolated and stirred in 200 mL water and 50 mL 1N HCl for 1 h. The solid was filtered, suspended in toluene and evaporated to dryness to give the 6-methoxy-3-oxo-3,4-dihydro-quinoxaline-2-carboxylic acid ethyl ester as a solid (5.2 g).

reactant | 2-Amino-4-methoxy aniline | 36.2 mmol, 5.0 g | NC1=C(N)C=CC(=C1)OC | C7H10N2O
reactant | triethylamine | 69.1 mmol, 5.08 mL | C(C)N(CC)CC | C6H15N
reactant | diethylbromomalonate | 47.0 mmol, 8.02 mL | C(C)OC(C(C(=O)OCC)Br)=O | C7H11BrO4
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | water | 200 mL | O | H2O
product | 6-methoxy-3-oxo-3,4-dihydro-quinoxaline-2-carboxylic acid ethyl ester | 5.2 g | C(C)OC(=O)C1=NC2=CC=C(C=C2NC1=O)OC | C12H12N2O4
